### PR TITLE
Add Erdős Problem 637 (distinct degrees in induced subgraphs of Ramsey graphs), link the formal proof

### LINKED ISSUE #6388: Erdős Problem 637
### What is the Erdős problem?

https://www.erdosproblems.com/637

If $G$ is a graph on $n$ vertices which contains no complete graph or independent set on $\gg \log n$ vertices then $G$ contains an induced subgraph on $\gg n$ vertices which contains $\gg n^{1/2}$ distinct degrees.

Status: proved (Bukh–Sudakov [BuSu07]). A formal proof exists in plby/lean-proofs (`Erdos637.erdos_637`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6388.

### What changed
Adds `FormalConjectures/ErdosProblems/637.lean` with `IsRamseyGraph C G` (no clique or independent set of size `≥ C log n`) and `distinctDegrees G W` (number of distinct degrees of `G[W]`):
- `erdos_637` (`research solved`, `answer(True)`): Bukh–Sudakov's theorem — for every `C` there are `α, β > 0` such that every `C`-Ramsey graph on `n` (large) vertices has an induced subgraph on `≥ αn` vertices with `≥ β√n` distinct degrees. Linked to plby/lean-proofs `Erdos637.erdos_637` (Codex and GPT-5.6 Sol; 11 Mathlib-only files).
- Sorry'd variant: the Jenssen–Keevash–Long–Yepremyan `n^{2/3}` bound.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos637.erdos_637` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's Ramsey condition uses `log₂`; the bridge rescales the constant):

<details>
<summary>Bridge</summary>

```lean
open Filter Real SimpleGraph

namespace Bridge637

lemma distinctDegrees_eq {n : ℕ} (G : SimpleGraph (Fin n)) (W : Finset (Fin n)) :
    Erdos637.distinctDegrees G W = Erdos637Plby.numDistinctDegrees G W := by
  classical
  unfold Erdos637.distinctDegrees Erdos637Plby.numDistinctDegrees Erdos637Plby.degreeInto
    Erdos88.neighborsIn
  congr 1

/-- `IsRamseyGraph C` (natural logarithm) is plby's `RamseyFree (C * log 2)` (base-two
logarithm). -/
lemma ramseyFree_of {n : ℕ} {C : ℝ} {G : SimpleGraph (Fin n)} (h : Erdos637.IsRamseyGraph C G) :
    Erdos88.RamseyFree (C * log 2) G := by
  intro S hS
  have := h S hS
  rw [Real.logb, mul_assoc, mul_div_cancel₀ _ (by positivity : log 2 ≠ 0)]
  exact this

theorem erdos_637_bridge : type_of% Erdos637.erdos_637 := by
  show True ↔ _
  simp only [true_iff]
  intro C hC
  obtain ⟨α, hα, β, hβ, N, h⟩ := Erdos637Plby.erdos_637 (C * log 2) (by positivity)
  refine ⟨α, β, hα, hβ, ?_⟩
  filter_upwards [eventually_ge_atTop N] with n hn
  intro G hG
  obtain ⟨W, hW, hd⟩ := h n hn G (ramseyFree_of hG)
  exact ⟨W, hW, by rw [distinctDegrees_eq]; exact hd⟩

#print axioms Erdos637Plby.erdos_637
#print axioms erdos_637_bridge

end Bridge637
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«637»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/637.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+
+open scoped Classical in
+/-- The number of distinct degrees in the subgraph of `G` induced on `W`. -/
+noncomputable def distinctDegrees {n : ℕ} (G : SimpleGraph (Fin n)) (W : Finset (Fin n)) : ℕ :=
+  (W.image fun v ↦ (W.filter (G.Adj v)).card).card
+
+/-- `G` contains no clique or independent set on `C log n` vertices. -/
+def IsRamseyGraph {n : ℕ} (C : ℝ) (G : SimpleGraph (Fin n)) : Prop :=
+  ∀ S : Finset (Fin n), (G.IsClique (S : Set (Fin n)) ∨ G.IsIndepSet (S : Set (Fin n))) →
+    (S.card : ℝ) < C * log n
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/637.lean:47]: IsRamseyGraph is a second ad hoc encoding of C-Ramsey graphs after 1037.lean's IsTrivialSet, let's avoid that and put it into FormalConjecturesForMathlib instead
